US09334269B2
To a roundbottom flask charged with 3-fluoro-5-nitrobenzoic acid (1.00 g, 5.40 mmol) was added DMF (6.75 mL), followed by Hunig's base (1.13 mL, 6.48 mmol), and HATU (2.157 g, 5.67 mmol). The flask was sealed with a septum and methanamine (2.0 M in THF) (13.5 mL, 27.0 mmol) was added via syringe. The resulting orange reaction mixture was stirred overnight at RT. After 16 h, the reaction mixture was diluted with CH2Cl2 (70 mL) and the resulting mixture was transferred to a separatory funnel and extracted with sat. aq. NaHCO3 (3×30 mL). The organic layer was dried with Na2SO4, filtered and concentrated under reduced pressure. Purification with medium pressure silica gel chromatography using 70:30 Hex:EtOAc as the eluent afforded 3-fluoro-N-methyl-5-nitrobenzamide (961 mg, 4.85 mmol, 90%) as a yellow solid.

reactant | 3-fluoro-5-nitrobenzoic acid | 5.40 mmol, 1.00 g | FC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4FNO4
reactant | Hunig's base | 6.48 mmol, 1.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 5.67 mmol, 2.157 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methanamine | 27.0 mmol, 2.0 M, 13.5 mL | CN | CH5N
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 6.75 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-N-methyl-5-nitrobenzamide | 4.85 mmol, 961 mg, 90% | FC=1C=C(C(=O)NC)C=C(C1)[N+](=O)[O-] | C8H7FN2O3
